* C:\proj\bog_on_a_plate\spice\preamp.asc
XU1 N013 N005 N001 N018 N005 NE5532
C1 N005 N012 47n
R1 N013 N012 {r_cutoff}
R2 N012 N004 {r_cutoff}
C2 N013 0 100n
V1 N002 0 40
V2 0 N019 40
V3 IN 0 SINE(0 0.5 50) AC 1
XU2 N015 N003 N001 N018 N004 NE5532
R4 N004 N003 10k
R5 N003 0 3k
R6 N015 N014 {r_vol_hi}
R8 N015 0 {r_vol_lo}
C3 N014 IN 22µ
R9 IN 0 22k
C5 N004 N003 220p
D1 0 N009 BZX84C12L
D2 N017 0 BZX84C12L
R7 N002 N009 47k
R10 N017 N019 47k
Q2 N002 N009 N001 0 BC547B
Q3 N019 N017 N018 0 BC557C
C4 N018 0 100n
C6 0 N001 100n
C7 N002 N009 1µ
C8 N017 N019 1µ
XU3 N011 N006 N001 N018 N007 NE5532
R3 N011 N005 10k
R11 N006 N005 10k
R12 N007 N006 10k
R13 N005 0 22k
R14 N011 0 {r_inv}
XU4 N010 N008 N001 N018 OUT NE5532
C9 N010 N007 100n
R15 N008 N007 10k
R16 OUT N008 10k
R17 N010 N016 {r_ph_hi}
R18 N016 0 {r_ph_lo}
R19 N016 0 10k
.model D D
.lib C:\Users\pontu\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\pontu\AppData\Local\LTspice\lib\cmp\standard.bjt
* .tran 0 2 20m 10u
.ac dec 1000 1 10k
* R6 and R8 set gain
* R1 and R2 sets cutoff
.param vol=0.231 r_vol=100k r_vol_hi=1m+(1-{vol})*{r_vol} r_vol_lo=1m+vol*{r_vol} r_cutoff=22k inv=1 ph=0
.param r_inv=if(inv,1m,1G)
.param r_ph=47k
.param r_ph_lo=1m+r_ph*(1-ph) r_ph_hi=1m+r_ph*ph
; .step param vol list 1 0.5 0.25 0.125 0.06125
;.step dec param r_cutoff 1k 50k 2
;.step param inv list 0 1
.step param ph list 0 0.2 0.4. 0.6 0.8 1
.lib ne5532.sub
.backanno
.end
